US04808581
(E)-N,N-Dimethyl-3-(2-methyl-1H-imidazol-4-yl)-2-propenamide
A solution of (E)-N,N-dimethyl-3-[2-methyl-1-(4-methylbenzenesulphonyl)-1H-imidazol-4-yl]-2-propenamide (1.0 g) in pyridine (5 ml) and acetic anhydride (10 ml) was stirred at room temperature for 16 h. The reaction mixture was evaporated in vacuo, methanol (15 ml) was added and stirring was continued for 1 h. The mixture was evaporated in vacuo and the resulting gum partitioned between potassium carbonate solution (ca. 25% saturated) (30 ml) and chloroform (4×25 ml). The combined organic layers were dried, evaporated in vacuo and the residue triturated with ether (30 ml) to give the title compound (340 mg) as a solid, t.l.c. (ether:methanol 9:1), Rf 0.07.

reactant | (E)-N,N-dimethyl-3-[2-methyl-1-(4-methylbenzenesulphonyl)-1H-imidazol-4-yl]-2-propenamide | 1.0 g | CN(C(\C=C\C=1N=C(N(C1)S(=O)(=O)C1=CC=C(C=C1)C)C)=O)C | C16H19N3O3S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-N,N-Dimethyl-3-(2-methyl-1H-imidazol-4-yl)-2-propenamide | 340 mg | CN(C(\C=C\C=1N=C(NC1)C)=O)C | C9H13N3O
